US06855722B2
a) 3-(5-{2-[Guanidino-oxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid ethyl ester
3-[5-(2-aminooxy-ethoxy)-indol-1-yl]-3-phenyl-propionic acid ethyl ester (0.28 g, 0.75 mmol) and 1H-pyrazole-1-carboxamide hydrochloride (0.99 g, 0.67 mmol) were dissolved in methanol (3 mL) and stirred for 5 days. The solvent was evaporated under vacuum and the crude mixture was purified via column chromatography with silica gel, eluting with 10% methanol/dichloromethane to afford the title compound (97% yield). 1H NMR (CDCl3), δ 7.11-7.26 (m, 7H), 7.00 (d, 1H, J=2.3 Hz), 6.75 (dd, 1H, J=2.3, 8.8 Hz), 6.43 (d, 1H, J=3.2 Hz), 5.98 (t, 1H, J=7.6 Hz), 4.08 (m, 2H), 3.99 (m, 4H), 3.23 (m, 2H), 1.05 (t, 3H, J=7.2 Hz).

reactant | 3-[5-(2-aminooxy-ethoxy)-indol-1-yl]-3-phenyl-propionic acid ethyl ester | 0.75 mmol, 0.28 g | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCON)=O | C21H24N2O4
reactant | 1H-pyrazole-1-carboxamide hydrochloride | 0.67 mmol, 0.99 g | Cl.N1(N=CC=C1)C(=O)N
solvent | methanol | 3 mL | CO | CH4O
product | 3-(5-{2-[Guanidino-oxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid ethyl ester | 97% yield | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCONC(=N)N)=O | C22H26N4O4
